US08466115B2
tert-butyl 5′-(diethoxymethyl)-3′-oxospiro[azetidine-3,1′-isoindoline]-1-carboxylate
To a deoxygenated solution of 1-benzhydryl-5′-(diethoxymethyl)spiro-[azetidine-3,1′-isoindolin]-3′-one (Preparation 18, 1.4 g, 3.2 mmol) in EtOH (75 mL) was added ammonium formate (1.4 g, 22.1 mmol), Boc anhydride (2.1 g, 9.5 mmol) and 10% Pd/C (504 mg, 0.5 mmol). The resulting suspension was heated to reflux while stirring under N2 for 1 hour. The reaction mixture was cooled, filtered through a pad of celite, and the filtrate was concentrated under vacuum. The crude residue was chromatographed (40 g Redi-Sep column) eluting from 100% hexanes to 50:50 EtOAc:hexanes to afford the intermediate (885 mg, 74%) as a solid. 1H NMR (CDCl3) δ ppm: 7.96 (1H), 7.83 (1H), 7.74 (1H), 7.13 (1H), 5.60 (1H), 4.38-4.29 (4H), 3.66-3.54 (4H), 1.53 (9H), 1.29-1.25 (6H).

reactant | 1-benzhydryl-5′-(diethoxymethyl)spiro-[azetidine-3,1′-isoindolin]-3′-one | 3.2 mmol, 1.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC2(NC(C3=CC(=CC=C23)C(OCC)OCC)=O)C1 | C28H30N2O3
reactant | ammonium formate | 22.1 mmol, 1.4 g | C(=O)[O-].[NH4+]
reactant | Boc anhydride | 9.5 mmol, 2.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 75 mL | CCO | C2H6O
catalyst | Pd/C | 0.5 mmol, 504 mg | [Pd] | Pd
product | tert-butyl 5′-(diethoxymethyl)-3′-oxospiro[azetidine-3,1′-isoindoline]-1-carboxylate | 885 mg, 74% | C(C)OC(C=1C=C2C(NC3(C2=CC1)CN(C3)C(=O)OC(C)(C)C)=O)OCC | C20H28N2O5
